US06630509B2
(b) Ethyl 2-cyano-3-(4-{2-[4-(isobutyrylamino)phenyl]ethoxy} phenyl)propanoate
Ethyl 2-cyano-3-(4-hydroxyphenyl)propanoate (1 g, 4.56 mmol) and N-[4-(2-hydroxyethyl)phenyl]-2-methylpropanamide (1.42 g, 6.85 mmol) were mixed in dichloromethane (40 ml). 1,1′-(Azodicarbonyl)dipiperidine (2.3 g, 9.12 mmol) and triphenylphosphine (2.4 g, 9.15 mmol) were then added respectively. The mixture was stirred overnight and filtered. The filtrate was evaporated to dry in vacuum. Column chromatography of the residue on silica gel using ethyl acetate/heptane as eluant gave 0.5 g desired product, yield 27%.

reactant | Ethyl 2-cyano-3-(4-hydroxyphenyl)propanoate | 4.56 mmol, 1 g | C(#N)C(C(=O)OCC)CC1=CC=C(C=C1)O | C12H13NO3
reactant | N-[4-(2-hydroxyethyl)phenyl]-2-methylpropanamide | 6.85 mmol, 1.42 g | OCCC1=CC=C(C=C1)NC(C(C)C)=O | C12H17NO2
reactant | 1,1′-(Azodicarbonyl)dipiperidine | 9.12 mmol, 2.3 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | triphenylphosphine | 9.15 mmol, 2.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Ethyl 2-cyano-3-(4-{2-[4-(isobutyrylamino)phenyl]ethoxy} phenyl)propanoate | 0.5 g, yield 27% | C(#N)C(C(=O)OCC)CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)NC(C(C)C)=O | C24H28N2O4
